US09216968B2
Methyl 2-chloro-1H-benzimidazole-4-carboxylate
A solution of methyl 2-oxo-2,3-dihydro-1H-benzimidazole-4-carboxylate (prepared as described in US2009/186879) (2.0 g) in phosphoryl chloride (18 mL) was stirred at 120° C. for 2.5 hours. Excessive phosphoryl chloride was removed under reduced pressure. To the residue was added saturated aqueous sodium bicarbonate under ice-cooling, and it was extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate and concentrated. The residue was purified on column chromatography to obtain the titled compound (1.5 g) as white powder.

reactant | methyl 2-oxo-2,3-dihydro-1H-benzimidazole-4-carboxylate | O=C1NC2=C(N1)C=CC=C2C(=O)OC | C9H8N2O3
reactant | phosphoryl chloride | 18 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Methyl 2-chloro-1H-benzimidazole-4-carboxylate | 1.5 g | ClC1=NC2=C(N1)C=CC=C2C(=O)OC | C9H7ClN2O2
